US05252580
(1) 1-Tosyl-N,N-dibenzyl-tryptamine
N,N-dibenzyl-tryptamine (1.70 g) and tetra-n-butyl ammonium hydrogensulfate (0.17 g) in benzene (5 ml) were added to 50% aqueous NaOH solution (5 ml) and tosyl chloride (1.43 g) and the mixture was stirred at room temperature for 2 hrs. The organic layer was separated, washed with water and then brine and dried over magnesium sulfate. The solvent was evaporated off. Crystallization from acetone/hexane afforded 1.83 g of the title compound.

reactant | N,N-dibenzyl-tryptamine | 1.70 g | C(C1=CC=CC=C1)N(CCC1=CNC2=CC=CC=C12)CC1=CC=CC=C1 | C24H24N2
reactant | NaOH | 5 ml | [OH-].[Na+]
reactant | tosyl chloride | 1.43 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
catalyst | tetra-n-butyl ammonium hydrogensulfate | 0.17 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
product | 1-Tosyl-N,N-dibenzyl-tryptamine | 1.83 g | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=C(CCN(CC2=CC=CC=C2)CC2=CC=CC=C2)C2=CC=CC=C12 | C31H30N2O2S
